US07591860B2
Step 1: Preparation of 2-(4-nitrophenylamino)octadecane-1,3-diol (3)
13 g (0.092 mol) of 4-fluoronitrobenzene, 30 g (0.099 mol) of 2-aminooctadecane-1,3-diol and 11 g (0.104 mol) of sodium carbonate were introduced into a 250 ml reactor equipped with a condenser. The reaction mixture was maintained at 120° C. for 3 hours. 200 ml of water were added slowly to the reaction medium, which was then poured into 500 ml of ice-cold water. The precipitate formed was filtered off on a sinter funnel and dried under vacuum at 50° C. in the presence of P2O5. After recrystallization twice from ethanol, 10 g of yellow powder were isolated.

reactant | 4-fluoronitrobenzene | 0.092 mol, 13 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 2-aminooctadecane-1,3-diol | 0.099 mol, 30 g | NC(CO)C(CCCCCCCCCCCCCCC)O | C18H39NO2
reactant | sodium carbonate | 0.104 mol, 11 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 200 ml | O | H2O
product | 2-(4-nitrophenylamino)octadecane-1,3-diol | 10 g | [N+](=O)([O-])C1=CC=C(C=C1)NC(CO)C(CCCCCCCCCCCCCCC)O | C24H42N2O4
